US05025031
1-(2-Chloro-5-methoxyphenyl)-1H-imidazole
A mixture of 6-chloro-m-anisidine hydrochloride (21.48 g, 0.11 mole), triethylamine (15.2 ml, 0.11 mole) and 150 ml trimethyl orthoformate was heated at reflux for 3.5 hours. To the mixture was added 150 ml of toluene and some charcoal. After stirring, the mixture was filtered and the filtrate was evaporated to an oil. The oil was redissolved in 150 ml of methanol and reacted with aminoacetaldehyde dimethyl acetal (12 ml, 0.11 mole) at reflux for four hours. The reaction was concentrated and the residue was dissolved in toluene. The toluene solution was extracted twice (total volume 100 ml) with 2N hydrochloric acid solution. The extracts were combined, heated at reflux temperature for five hours, and then concentrated. The residue was dissolved in water and neutralized first with 50% sodium hydroxide and finished up with sodium bicarbonate solution. Some oily material deposited and crystallized upon addition of toluene. The mixture was filtered, the layers of the filtrate were separated, and the aqueous layer extracted three times with toluene-acetonitrile. The organic layers were combined, dried over sodium sulfate, and concentrated to a dark brown oil (15 g). TLC (silica gel eluted with 10% methanol in methylene chloride) of this oil showed mainly two spots at Rf 0.8 and 0.2. The oil was chromatographed on 150 g of silica gel and eluted with 10% methanol in methylene chloride.

reactant | 6-chloro-m-anisidine hydrochloride | 0.11 mole, 21.48 g | Cl.ClC1=CC=C(C=C1OC)N
reactant | triethylamine | 0.11 mole, 15.2 ml | C(C)N(CC)CC | C6H15N
reactant | trimethyl orthoformate | 150 ml | C(OC)(OC)OC | C4H10O3
reactant | charcoal | C | CH4
reactant | aminoacetaldehyde dimethyl acetal | 0.11 mole, 12 ml | COC(CN)OC | C4H11NO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Chloro-5-methoxyphenyl)-1H-imidazole | ClC1=C(C=C(C=C1)OC)N1C=NC=C1 | C10H9ClN2O
